US08541404B2
To a solution of 4-bromo-2-nitroaniline (15.0 g, 69.1 mmol) was added drop wise 2-chloroacetyl chloride (9.4 g, 82.9 mmol) under nitrogen. After refluxing for 1.5 h, the reaction mixture was cooled to ambient temperature and the solvent was removed under reduced pressure. Crystallization from ethyl acetate/hexane afforded N-(4-bromo-2-nitrophenyl)-2-chloroacetamide (19.4 g, 66.1 mmol, 96%) as yellow needles.

reactant | 4-bromo-2-nitroaniline | 69.1 mmol, 15.0 g | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | 2-chloroacetyl chloride | 82.9 mmol, 9.4 g | ClCC(=O)Cl | C2H2Cl2O
product | N-(4-bromo-2-nitrophenyl)-2-chloroacetamide | 66.1 mmol, 19.4 g, 96% | BrC1=CC(=C(C=C1)NC(CCl)=O)[N+](=O)[O-] | C8H6BrClN2O3
